US08202863B2
Na° (0.66 g, 28.6 mmol) is added to anhydrous EtOH (100 mL) and stirred at room temperature for 15 min. 3-Fluorobenzamidine hydrochloride (4.87 g, 27.8 mmol) is added and the solution is stirred for 15 min. 2-Dimethylaminomethylene-3-oxo-butyric acid ethyl ester (5.3 g, 28.6 mmol,) is added and the reaction mixture is heated at reflux under N2 for 1 hours. The reaction is cooled to room temperature and concentrated in vacuo. The residue is dissolved in EtOAc (300 mL), washed with brine (2×100 mL), dried (Na2SO4), filtered, and concentrated to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid ethyl ester (6.8 g, 99%). MS: 261 (M+H); 1H NMR (300 MHz, CDCl3): δ 1.43 (t, J=7.0 Hz, 3H), 2.92 (s, 3H), 4.42 (q, J=7.0 Hz, 2H), 7.24 (m, 1H), 7.45 (m, 1H), 8.27 (m, 1H), 8.37 (m, 1H), 9.21 (s, 1H).

reactant | 3-Fluorobenzamidine hydrochloride | 27.8 mmol, 4.87 g | Cl.FC=1C=C(C(=N)N)C=CC1
reactant | 2-Dimethylaminomethylene-3-oxo-butyric acid ethyl ester | 28.6 mmol, 5.3 g | C(C)OC(C(C(C)=O)=CN(C)C)=O | C9H15NO3
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid ethyl ester | 6.8 g, 99% | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C14H13FN2O2
